US07691877B2
(2-Amino-6-methylamino-3-nitro-pyridin-4-yl)-benzyl-carbamic acid ethyl ester
Methylamine (40% solution in water) (0.055 ml) was added to a solution of (2-amino-6-bromo-3-nitro-pyridin-4-yl)-benzyl-carbamic acid ethyl ester (50 mg) in THF (0.5 ml) at room temperature. The reaction was stirred under nitrogen for 16 hours then the solution pre-absorbed directly onto silica gel. The mixture was purified by chromatography on an Isco Companion, eluting with ethyl acetate:heptane, increasing the gradient linearly from 20:80 to 60:40 over several column volumes. The desired fractions were combined and evaporated to provide the title compound (30 mg) as a yellow gum.

reactant | Methylamine | 0.055 ml | CN | CH5N
reactant | (2-amino-6-bromo-3-nitro-pyridin-4-yl)-benzyl-carbamic acid ethyl ester | 50 mg | C(C)OC(N(CC1=CC=CC=C1)C1=C(C(=NC(=C1)Br)N)[N+](=O)[O-])=O | C15H15BrN4O4
solvent | THF | 0.5 ml | C1CCOC1 | C4H8O
product | (2-Amino-6-methylamino-3-nitro-pyridin-4-yl)-benzyl-carbamic acid ethyl ester | 30 mg | C(C)OC(N(CC1=CC=CC=C1)C1=C(C(=NC(=C1)NC)N)[N+](=O)[O-])=O | C16H19N5O4
